US06833421B1
30 g (168 mmol) of 3-(4-hydroxyphenyl)acrylic acid methyl ester, 29 g (210 mmol) of anhydrous K2CO3 and a spatula tip of KI were placed in 200 ml of dimethylformamide. 14.91 g (185 mmol) of 2-chloroethanol were added dropwise at 85° C. within 5 minutes while stirring. The batch was stirred at 85° C. for a further 3 days. Subsequently, the salts were filtered off and the filtrate was concentrated to dryness in a water-jet vacuum. 16.1 g of (E)-3-[4-[2-hydroxyethoxy]phenyl]acrylic acid methyl ester were obtained in the form of white crystals after recrystallization from i-propanol.

reactant | 3-(4-hydroxyphenyl)acrylic acid methyl ester | 168 mmol, 30 g | COC(C=CC1=CC=C(C=C1)O)=O | C10H10O3
reactant | K2CO3 | 210 mmol, 29 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloroethanol | 185 mmol, 14.91 g | ClCCO | C2H5ClO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | (E)-3-[4-[2-hydroxyethoxy]phenyl]acrylic acid methyl ester | 16.1 g | COC(\C=C\C1=CC=C(C=C1)OCCO)=O | C12H14O4
